US05438058
Preparation of 2-methyl-4-amino-6-chloropyrimidine
150 g (1.2 mol) of anhydrous 2-methyl-4-amino6-hydroxypyrimidine are added little by little, with good stirring, to 720 ml of phosphorus oxychloride. The mixture is refluxed gently for 5 hours. A yellow solution is obtained. After cooling to 20° C., the precipitate formed is drained. An oily residue is recovered by evaporating the filtrate almost to dryness. This oily residue is poured, little by little, onto 500 g of ice, with stirring and while cooling the vessel in ice. The precipitate is introduced little by little into the solution obtained after some time. The addition is exothermic and the mixture must be cooled well in an ice bath. All of the solid dissolves. The solution is cooled to 0° C. and is rendered alkaline to pH 8 by the addition of 20% ammonia (850 ml). The formation becomes very thick. The solid is drained and washed on the filter with 100 ml of 10% aqueous sodium chloride solution and then with 200 ml of water. 144.2 g of crude product are obtained, which are recrystallised from acetonitrile. 97 g (0.676 mol) of pure product having a melting point of 191° C. are recovered. The yield of recrystallised product is 56.3%.

reactant | 2-methyl-4-amino6-hydroxypyrimidine | 1.2 mol, 150 g | CC1=NC(=CC(=N1)N)O | C5H7N3O
reactant | phosphorus oxychloride | 720 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | ammonia | 850 ml | N | H3N
product | 2-methyl-4-amino-6-chloropyrimidine | 144.2 g | CC1=NC(=CC(=N1)N)Cl | C5H6ClN3
